US06908921B2
To a solution of 2-fluroronitrobenzene (3.70 g, 26.06 mmol) and (2R)-2-aminopent-4-enoic acid (3.00 g, 26.06 mmol) in MeOH (30 mL), was added NaHCO3 (4.82 g, 57.33 mmol), and the reaction mixture was refluxed overnight. After cooling, concentrating, and chasing with benzene (3×30 mL), the crude product was dried on high vacuum pump overnight to give (2R)-2-[(2-nitrophenyl)amino]-pent-4-enoic acid, which was then dissolved in MeOH, cooled to 0° C. and saturated with HCl(g). The reaction was capped and the reaction mixture was stirred at room temperature overnight, concentrated, and then subjected to silica gel chromatography eluting with 40%-60% CH2Cl2 in hexanes to give methyl (2R)-2-[(2-nitrophenyl)amino]pent-4-enoate (3.75 g, 57% overall yield for 2 steps). Methyl (2R)-2-[(2-nitrophenyl)amino]pent-4-enoate was dissolved in MeOH (70 mL) and SnCl2.H2O (16.84 g, 74.63 mmol) was added After refluxing overnight, the reaction mixture was cooled and concentrated under reduced pressure. The crude material was poured into EtOAc and saturated NaHCO3 and extracted with EtOAc (3×100 mL). The combined organics were then washed with NaHCO3 (1×50 mL) and brine (1×50 mL), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel, eluting with 25%-40% EtoAc in Hexanes to give 1.31 g (47%) of (3R)-3-allyl-3,4-dihydroquinoxalin-2(1H)-one. LCMS (ES) m/z 189.3 (M+H)+.

reactant | Methyl (2R)-2-[(2-nitrophenyl)amino]pent-4-enoate | [N+](=O)([O-])C1=C(C=CC=C1)N[C@@H](C(=O)OC)CC=C | C12H14N2O4
reactant | SnCl2.H2O | 74.63 mmol, 16.84 g | Cl[Sn]Cl.O
solvent | MeOH | 70 mL | CO | CH4O
product | (3R)-3-allyl-3,4-dihydroquinoxalin-2(1H)-one | 1.31 g, 47% | C(C=C)[C@@H]1C(NC2=CC=CC=C2N1)=O | C11H12N2O
